US05258382
Preparation of 2-(4-chloro-2-trichloroacetylpyrrol-1-yl)-2-ethoxycarbonylsuccinimide:
To a stirred solution of 2-ethoxycarbonyl-2-(2-trichloroacetylpyrrol-1-yl)succinimide (6.0 g) in chloroform (50 ml) was added dropwise a solution of sulfuryl chloride (4.8 g) in chloroform (5 ml) under ice cooling. The resulting mixture was stirred under ice cooling for 30 minutes, poured into water, and extracted with chloroform. The extracts were dried over sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on silica gel using n-hexane/ethyl acetate (2:1) as the eluent. Fractions containing the title compound were pooled and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (2.5 g, 41.7%) as colorless crystals, mp 182°-185° C.

reactant | 2-ethoxycarbonyl-2-(2-trichloroacetylpyrrol-1-yl)succinimide | 6.0 g | C(C)OC(=O)C1(C(=O)NC(C1)=O)N1C(=CC=C1)C(C(Cl)(Cl)Cl)=O | C13H11Cl3N2O5
reactant | sulfuryl chloride | 4.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-chloro-2-trichloroacetylpyrrol-1-yl)-2-ethoxycarbonylsuccinimide | 2.5 g, 41.7% | ClC=1C=C(N(C1)C1(C(=O)NC(C1)=O)C(=O)OCC)C(C(Cl)(Cl)Cl)=O | C13H10Cl4N2O5
